US09447036B2
Trifluoroacetic acid (6 μL, 78 μmol) was added to 2-(3,5-Dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl methyl sulfone (500 mg, 1.57 mmol) in toluene (3 mL). N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine (558 mg, 2.35 mmol) in toluene (2 mL) was added at room temperature over 10 minutes. The reaction mixture was stirred for two hours and then additional N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine (74.4 mg, 313 μmol) was added. The reaction mixture was stirred for additional two hours and then left standing over night. Water was added and after stirring for a while the phases were separated and the aqueous phase was extracted with toluene. The combined organic phases were dried over sodium sulfate and evaporated. The crude product is taken up in warm iso-propanol (1 mL) and 10% hydrochloric acid (0.5 mL) and a drop of methanol was added. The formed crystals were filtered off. The hydrochloride was suspended in water and sodium hydroxide and tert-buthyl methylether was added. The organic phase was separated and the aqueous phase was extracted with tert-buthyl methylether. The combined organic phases were dried over sodium sulfate, filtered and evaporated. This procedure yielded 1-benzyl-3-(3,5-dichlorophenyl)-4-(methylsulfonyl)-3-(trifluoromethyl)pyrrolidine (302 mg, 99% purity, 42% yield).

reactant | Trifluoroacetic acid | 78 μmol, 6 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3,5-Dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl methyl sulfone | 1.57 mmol, 500 mg | CS(=O)(=O)C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C10H7Cl2F3O2S
reactant | N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine | 2.35 mmol, 558 mg | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine | 313 μmol, 74.4 mg | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | Water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-(3,5-dichlorophenyl)-4-(methylsulfonyl)-3-(trifluoromethyl)pyrrolidine | 302 mg, 42% yield | C(C1=CC=CC=C1)N1CC(C(C1)S(=O)(=O)C)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H18Cl2F3NO2S
